US05750525
392 mg (1 mmol) of 2-[(6 trifluoromethylquinoxaline-2,3-dion-1-yl)ethyl chloride is heated with 150 mg (2.2 mmol) of imidazole for 3 hours to 150° C. bath temperature. The organic phase is concentrated by evaporation with dispersion in 10 ml of ethyl acetate and 10 ml of water, and the residue is chromatographed on silica gel with methanol:butanol:water:ammonia=75:25:17:3 as eluant. 54 mg (17% of theory) of 2-((6 trifluoromethylquinoxaline-2,3-dion-1-yl)ethylimidazole of melting point>250° C. is obtained.

reactant | (6 trifluoromethylquinoxaline-2,3-dion-1-yl)ethyl chloride | FC(C=1C=C2NC(C(N(C2=CC1)CCCl)=O)=O)(F)F | C11H8ClF3N2O2
reactant | imidazole | 2.2 mmol, 150 mg | N1C=NC=C1 | C3H4N2
product | (6 trifluoromethylquinoxaline-2,3-dion-1-yl)ethylimidazole | FC(C=1C=C2NC(C(N(C2=CC1)CCC=1NC=CN1)=O)=O)(F)F | C14H11F3N4O2
